US08309542B2
(b) 1-Methyl-2-thiophen-2-yl-ethylamine
A solution of 3.7 g (21.9 mmol) 2-(2-nitro-propenyl)-thiophene in 50 ml THF is added dropwise to a suspension of 4.1 g (109.3 mmol) lithium aluminium hydride in 150 ml THF. After the addition has ended the mixture is refluxed. After 1.5 hours it is cooled to RT and stirred for another 16 hours. Then the mixture is slowly combined with 10 ml sat. sodium sulphate solution and filtered through Celite. The filtrate thus obtained is evaporated down i. vac.

reactant | 2-(2-nitro-propenyl)-thiophene | 21.9 mmol, 3.7 g | [N+](=O)([O-])C(=CC=1SC=CC1)C | C7H7NO2S
reactant | lithium aluminium hydride | 109.3 mmol, 4.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | 10 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-Methyl-2-thiophen-2-yl-ethylamine | CC(CC=1SC=CC1)N | C7H11NS
